US08975254B2
1-(4-((S)-1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazol-2-yl)ethyl acetate
N—((S)-1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)thiazole-4-carboxamide (0.1 g, 0.233 mmol) and DMAP (2.87 mg, 0.023 mmol) were added into a flask under nitrogen atmosphere. Pyridine was added, the mixture cooled to 0° C. and acetic anhydride (0.023 ml, 0.244 mmol) was added dropwise. The mixture was slowly heated to RT and stirred. After 2.5 h the mixture was evaporated. The product was purified with Flash-chromatography. Yield 80%. 1H-NMR (400 MHz; CDCl3): δ 1.27 (d, 3H), 1.59 (dd, 3H), 2.15 (d, 3H), 2.56 (d, 3H), 4.33 (dd, 1H), 4.43 (dd, 1H), 4.60 (m, 1H), 6.03-6.11 (m, 1H), 6.43 (d, 1H), 7.50-7.58 (m, 3H), 7.77-7.88 (m, 1H), 8.05 (s, 1H).

reactant | N—((S)-1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)thiazole-4-carboxamide | 0.233 mmol, 0.1 g | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(C)O)C | C20H20ClN5O2S
reactant | acetic anhydride | 0.244 mmol, 0.023 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 0.023 mmol, 2.87 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(4-((S)-1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazol-2-yl)ethyl acetate | Yield 80% | C(C)(=O)OC(C)C=1SC=C(N1)C(N[C@H](CN1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C)C)=O | C22H22ClN5O3S
